US06737409B2
N-[1-({1-sec-Butyl-2-methoxy-4-[2-(1-methylsulfanyl-2-phenethylcarbamoyl-ethyl)-pyrrolidin-1-yl]-4-oxo-butyl}-methyl-carbamoyl)-2-methyl-propyl]-2-dimethylamino-3-methyl-butyramide
After the crude 3-methylsulfanyl-N-phenethyl-3-pyrrolidin-2-yl-propionamide TFA salt obtained above was dissolved in DMF(2 ml), the solution was added at 0° C. to (3R*,4S*,5S*)-4-[N,N-dimethyl-L-valyl-(N-methyl-L-valinamido)]-3-methoxy-5-methylheptanoic acid which was prepared from (3R*,4S*,5S*)-4-[N,N-dimethyl-L-valyl-(N-methyl-L-valinamido)]-3-methoxy-5-methylheptanoic acid t-Bu ester (34 mg, 0.0700 mmol) by treating with TFA in CH2Cl2 according to the literature method (Chem. Pharm. Bull., 43(10), 1706-1718, 1995). To the solution were added diethyl phosphorocyanidate (95%: 12 μl, 0.0751 mmol) and triethylamine (49 μl, 0.352 mmol) at 0° C. After being stirred at 0° C. for 1 hr, the mixture was allowed to warm to room temperature and stirred for 20 hr. The mixture was quenched with saturated aqueous NaHCO3, extracted with AcOET, washed with saturated aqueous NaCl, dried (MgSO4), and concentrated in vacuo to give the crude oil (90 mg), which was purified by preparative HPLC (column: ODS-80Ts, eluent: 39/31 H2O:CH3CN/0.05% TFA). The appropriate fractions were lyophilized to obtain the title compound as a white amorphous powder (30 mg, 47%).

reactant | 3-methylsulfanyl-N-phenethyl-3-pyrrolidin-2-yl-propionamide TFA salt | OC(=O)C(F)(F)F.CSC(CC(=O)NCCC1=CC=CC=C1)C1NCCC1
reactant | (3R*,4S*,5S*)-4-[N,N-dimethyl-L-valyl-(N-methyl-L-valinamido)]-3-methoxy-5-methylheptanoic acid | CN([C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N(C)[C@H]([C@@H](CC(=O)O)OC)[C@H](CC)C)C | C22H43N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | diethyl phosphorocyanidate | 0.0751 mmol, 12 μl | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 0.352 mmol, 49 μl | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[1-({1-sec-Butyl-2-methoxy-4-[2-(1-methylsulfanyl-2-phenethylcarbamoyl-ethyl)-pyrrolidin-1-yl]-4-oxo-butyl}-methyl-carbamoyl)-2-methyl-propyl]-2-dimethylamino-3-methyl-butyramide | C(C)(CC)C(C(CC(=O)N1C(CCC1)C(CC(NCCC1=CC=CC=C1)=O)SC)OC)N(C(=O)C(C(C)C)NC(C(C(C)C)N(C)C)=O)C | C38H65N5O5S
